US04151357
(E,Z,E), (E,E,E), (Z,Z,E) and (Z,E,E)-N-(2-pyrrolidinoethyl)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide
Following the same manner as in Example 9, the reaction was conducted using 1.0 g of (E,Z,E), (E,E,E), (Z,Z,E) and (Z,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid and 450 mg of 1-(2-aminoethyl)pyrrolidine in 6.0 ml of N,N-dimethylformamide and the reaction mixture was extracted with chloroform. The chloroform layer was washed with aqueous sodium hydrogencarbonate and extracted with dilute hydrochloric acid. The hydrochloric acid layer was neutralized with sodium hydrogencarbonate and extracted with chloroform. The chloroform layer was washed with water, dried and the solvent was distilled off. The residue was purified by a column chromatography using alumina (20 g) to afford 1.0 g of the end product.

reactant | (Z,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid | OC/C(=C/CC\C(=C/C(=O)O)\C)/CC\C=C(\CCC=C(C)C)/C | C20H32O3
reactant | 1-(2-aminoethyl)pyrrolidine | 450 mg | NCCN1CCCC1 | C6H14N2
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | (Z,E,E)-N-(2-pyrrolidinoethyl)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide | 1.0 g | N1(CCCC1)CCNC(\C=C(/CC\C=C(/CC\C=C(\CCC=C(C)C)/C)\CO)\C)=O | C26H44N2O2
